US08222245B2
7-Iodo-2,3,4,5-tetrahydro-1H-2-benzazepine
7-Iodo-2,3,4,5-tetrahydro-1H-2-benzazepin-1-one (Preparation 1) (550 mg, 1.916 mmol) was dissolved in dry THF (70 ml) and treated with borane-THF complex (1M) (11.49 ml, 11.49 mmol) and heated at reflux for 4 hours. Then the reaction was left standing overnight. Additional borane-THF complex (1M, 2 ml) was added and the reaction heated at reflux temperature for a further 2 hours and 30 minutes. Methanol was carefully added to the cooled reaction mixture. The reaction was stirred until fizzing stopped. Then 2N HCl (aq) (20 ml) was carefully added portion-wise and, after fizzing had subsided, the solution heated at 75° C. for 30 minutes. LC/MS showed one major product. The reaction mixture was cooled and water was added (20 ml). The mixture was washed with EtOAc (40 ml), basified with 2 N NaOH (aq) and extracted with EtOAc (50 ml). The EtOAc layer was dried over anhydrous MgSO4 and evaporated to yield the title compound (400 mg) as a white solid. MS (ES) C10H12IN requires 273: found 274 (M+H)+.

reactant | 7-Iodo-2,3,4,5-tetrahydro-1H-2-benzazepin-1-one | 1.916 mmol, 550 mg | IC=1C=CC2=C(CCCNC2=O)C1 | C10H10INO
reactant | Methanol | CO | CH4O
reactant | HCl | 2N, 20 ml | Cl | ClH
reactant | water | O | H2O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 7-Iodo-2,3,4,5-tetrahydro-1H-2-benzazepine | 400 mg | IC=1C=CC2=C(CCCNC2)C1 | C10H12IN
